US07601752B2
A suspension of 5-chloro-2-nitrobenzonitrile (2.41 g), morpholin-3-one (2 g), cesium carbonate (6.45 g), tris(dibenzylideneacetone)dipalladium (120 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (230 mg) in 30 ml dioxane was heated for 24 h at 120° C. The reaction mixture was cooled to 25° C., diluted with CH2Cl2 and filtered through decalite. The organic layer was washed with water and brine and purified by chromatography (silica gel, AcOEt) to yield 2-nitro-5-(3-oxo-morpholin-4-yl)-benzonitrile as a yellow solid (1.77 g). MH+=248.3

reactant | 5-chloro-2-nitrobenzonitrile | 2.41 g | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | morpholin-3-one | 2 g | N1C(COCC1)=O | C4H7NO2
reactant | cesium carbonate | 6.45 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 120 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 230 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 2-nitro-5-(3-oxo-morpholin-4-yl)-benzonitrile | 1.77 g | [N+](=O)([O-])C1=C(C#N)C=C(C=C1)N1C(COCC1)=O | C11H9N3O4
